US07935688B2
(3) Synthesis of 1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenylethynyl)-cyclopentanol
Potassium acetate (1.21 g, 12.3 mmol), bis(pinacolato)diboron (1.36 g, 5.36 mmol), a [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), dichloromethane complex (1:1) (0.2 g, 0.25 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.14 g, 0.25 mmol) and dioxane (27 mL) were added to trifluoromethanesulfonic acid 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl ester (Example 32-(2); 2 g, 3.9 mmol). The mixture was stirred in a nitrogen atmosphere at 85° C. for five hours. Diethyl ether was added to the reaction mixture. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to give the title compound (1.1 g, 57%).

reactant | Potassium acetate | 12.3 mmol, 1.21 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 5.36 mmol, 1.36 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dioxane | 27 mL | O1CCOCC1 | C4H8O2
reactant | trifluoromethanesulfonic acid 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl ester | 3.9 mmol, 2 g | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C27H31F3O4S
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.25 mmol, 0.14 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenylethynyl)-cyclopentanol | 1.1 g, 57% | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)C#CC1(CCCC1)O)C | C32H43BO3
